US04105790
Ethyl 2-phenoxypropionate was reacted with chloroacetyl chloride as described for N,N-diethyl-4-(chloroacetyl)phenoxyacetamide, used as a starting material for Example 7, to give ethyl 2-[4-(chloroacetyl)phenoxy]-propionate as a white solid, having a satisfactory analysis (found: C, 57.7, H, 5.5, N, 13.0; required: C, 57.7; H, 5.6; N, 13.1).

reactant | Ethyl 2-phenoxypropionate | O(C1=CC=CC=C1)C(C(=O)OCC)C | C11H14O3
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | N,N-diethyl-4-(chloroacetyl)phenoxyacetamide | C(C)N(C(COC1=CC=C(C=C1)C(CCl)=O)=O)CC | C14H18ClNO3
product | ethyl 2-[4-(chloroacetyl)phenoxy]-propionate | ClCC(=O)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C13H15ClO4
